US06806274B1
1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-(trans-2-phenylcyclopropyl)urea
trans-2-Phenylcyclopropyl isocyanate (0.2 ml) was added to a stirred mixture of 4-amino-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (0.1 g) and chloroform (3 ml) and the resultant mixture was stirred at ambient temperature for 20 hours. The reaction mixture was diluted with chloroform (3 ml) and tris-(2-aminoethyl)amine polystyrene resin (0.5 g) was added. The mixture was stirred at ambient temperature for 1 hour. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography, on silica using increasingly polar mixtures of methylene chloride and 2M methanolic ammonia as eluent. There was thus obtained the title compound (0.11 g); NMR Spectrum: (CDCl3) 1.24-1.38 (m, 2H), 1.41-1.57 (m, 2H), 1.87-2.05 (m, 5H), 2.21 (m, 1H), 2.3 (s, 3H), 2.91 (d, 2H), 3.05 (m, 1H), 3.97 (s, 3H), 4.04 (d, 2H), 7.1-7.26 (m, 6H partially obscured by CHCl3 peak), 7.34 (m, 1H), 8.66 (s, 1H), 8.72 (s, 1H), 10.31 (s, 1H); Mass Spectrum: M+H+ 462.

reactant | trans-2-Phenylcyclopropyl isocyanate | 0.2 ml | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
reactant | 4-amino-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 0.1 g | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H22N4O2
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-(trans-2-phenylcyclopropyl)urea | 0.11 g | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC(=O)N[C@H]1[C@@H](C1)C1=CC=CC=C1 | C26H31N5O3
